US08022223B2
Step C: Preparation of 5-(6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-4-ylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine trihydrochloride:
A 10 mL round-bottomed flask was charged with methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate (65 mg, 0.16 mmol), ethyl 4-chloro-5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate (55 mg, 0.24 mmol), and DMSO (2 mL). The reaction was bubbled through with nitrogen and potassium 2-methylpropan-2-olate (54 mg, 0.49 mmol) was added and stirred at ambient temperature for 30 minutes. The reaction was poured into saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (50% EtOAc in hexanes) to afford a residue that was dissolved in methanol, KOH (xs) and water (0.5 mL) added and heated to 60° C. over the weekend. The reaction was poured into saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (100% EtOAc to 20% methanol in CH2Cl2 with 0.2% ammonia) to afford the title compound (29 mg, 33% yield) as a yellow solid after HCl salt formation. 1H NMR (d6-DMSO) δ 10.12 (bs, 2H), 8.34 (d, 1H), 8.31 (d, 1H), 7.42 (m, 2H), 7.36 (d, 1H), 7.17 (m, 3H), 6.84 (d, 1H), 6.76 (s, 1H), 4.47 (m, 4H), 2.28 (s, 3H). Mass spectrum (apci) m/z=434.2 (M+H-3HCl).

reactant | methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | 0.16 mmol, 65 mg | CC=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C19H19N3O3S2
reactant | ethyl 4-chloro-5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate | 0.24 mmol, 55 mg | ClC1=C2C(=NC=C1)CN(C2)C(=O)OCC | C10H11ClN2O2
reactant | potassium 2-methylpropan-2-olate | 0.49 mmol, 54 mg | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | 0.5 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 5-(6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-4-ylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine trihydrochloride | 29 mg, 33% yield | Cl.Cl.Cl.N1=C2C(=C(C=C1)SC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1)CNC2 | InChI=1S/C22H19N5OS2.3ClH/c1-14-13-29-22(26-14)27-21-19(28-15-5-3-2-4-6-15)9-16(10-25-21)30-20-7-8-24-18-12-23-11-17(18)20;;;/h2-10,13,23H,11-12H2,1H3,(H,25,26,27);3*1H
